US06271238B1
(3) 3-(5-Acetylamino-6-oxo-2-phenyl-1,6-dihydropyrimidine-1-yl)-1,2-propanediol
50% aqueous N-methylmorpholine-N-oxide (1.55 ml, 6.6 mmol) and 0.157 N aqueous osmium tetroxide (1.06 ml, 0.165 mmol) were added to a solution of 5-acetylamino-1-allyl-6-oxo-2-phenyl-1,6-dihydropyrimidine (888.6 mg, 3.3 mmol) in tetrahydrofuran (13 ml), and the mixture was stirred at room temperature for 2 days. After saturated aqueous sodium thiosulfate was added, the reaction solution was extracted with ethyl acetate, and the organic layer was washed with saturated saline. After dried over anhydrous sodium sulfate, the organic layer was concentrated under reduced pressure, and the resulting residue was purified by silica gel column chromatography (methylene chloride/methanol=10/1) whereby the title compound (1.06 g, quant) was obtained as white solid. 1H-NMR (CDCl3); 2.25 (3H, s), 2.40-2.58 (1H, m), 3.29-3.63 (3H, complex), 3.78-3.95 (1H, m), 4.08-4.26 (2H, m), 7.41-7.54 (5H, s), 8.04 (1H, m), 9.00 (1H, s); MS (FAB) m/z=304 (M+1)

reactant | N-methylmorpholine-N-oxide | 6.6 mmol, 1.55 ml | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | 5-acetylamino-1-allyl-6-oxo-2-phenyl-1,6-dihydropyrimidine | 3.3 mmol, 888.6 mg | C(C)(=O)NC1=CN=C(N(C1=O)CC=C)C1=CC=CC=C1 | C15H15N3O2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | tetrahydrofuran | 13 ml | O1CCCC1 | C4H8O
catalyst | osmium tetroxide | 0.165 mmol, 0.157 N, 1.06 ml | [Os](=O)(=O)(=O)=O
product | 3-(5-Acetylamino-6-oxo-2-phenyl-1,6-dihydropyrimidine-1-yl)-1,2-propanediol | C(C)(=O)NC1=CN=C(N(C1=O)CC(CO)O)C1=CC=CC=C1 | C15H17N3O4
